US08541596B2
N-(4-(Methylthio)benzyl)-N-(4-ethylbenzyl)-1H-benzo[d]imidazol-5-amine
The compound was synthesized starting from N-(4-ethylbenzyl)benzimidazol-5-amine (251 mg; 1 mmol; 1 eq.), 4-methylthiobenzylbromide (239 mg; 1.1 mmol; 1.1 eq.) and K2CO3 (152 mg; 1.1 mmol; 1.1 eq.) according to method 6; Yield: 0.166 g (42.9%); MS m/z: 388.4

reactant | N-(4-ethylbenzyl)benzimidazol-5-amine | 1 mmol, 251 mg, 1 eq. | C(C)C1=CC=C(CNC2=CC3=C(N=CN3)C=C2)C=C1 | C16H17N3
reactant | 4-methylthiobenzylbromide | 1.1 mmol, 239 mg, 1.1 eq. | CSC1=CC=C(CBr)C=C1 | C8H9BrS
reactant | K2CO3 | 1.1 mmol, 152 mg, 1.1 eq. | C(=O)([O-])[O-].[K+].[K+]
product | N-(4-(Methylthio)benzyl)-N-(4-ethylbenzyl)-1H-benzo[d]imidazol-5-amine | CSC1=CC=C(CN(C2=CC3=C(NC=N3)C=C2)CC2=CC=C(C=C2)CC)C=C1 | C24H25N3S
